### PR TITLE
[Merged by Bors] - feat: port Archive.Imo.Imo2019Q1

### PR DESCRIPTION
**Pull request by int-y1**
---

easy

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Archive/Imo/Imo2019Q1.lean [hunk 1]
```diff
@@ -29,10 +29,9 @@ theorem imo2019_q1 (f : ℤ → ℤ) :
     (∀ a b : ℤ, f (2 * a) + 2 * f b = f (f (a + b))) ↔ f = 0 ∨ ∃ c, f = fun x => 2 * x + c := by
   constructor; swap
   -- easy way: f(x)=0 and f(x)=2x+c work.
-  · rintro (rfl | ⟨c, rfl⟩) <;> intros <;> simp only [Pi.zero_apply] <;> ring
+  · rintro (rfl | ⟨c, rfl⟩) <;> intros <;> simp only [Pi.zero_apply]; ring
   -- hard way.
-  intro hf
-  -- functional equation
+  intro hf -- functional equation
```
Comment (semorrison) [inline Archive/Imo/Imo2019Q1.lean]: Could you revert this? mathport sometimes misplaces the comment.

**Comment by semorrison** [comment]
bors d+
